US06048880
1,3-Dichloro-5,6-dihydro-4H-cyclopenta(c)thiophen-4-one (step 5)
To a stirred solution of 3-(2,5-dichloro-3-thienyl)propanoic acid (5.0 g, 24.2 mmol) in CH2Cl2 (50 mL) was added oxalyl chloride (3.5 g, 27.5 mmol) and the mixture was heated at reflux temperature for 1 hour. After cooling, volatiles were removed by evaporation. To a stirred solution of the acid chloride in CH2Cl2 (125 mL) was added aluminum chloride (4.0 g, 30 mmol) at room temperature. After stirring for 20 min, aluminum chloride (4.5 g, 33.7 mmol) was added. The mixture was stirred for additional 1 hour at room temperature. The reaction mixture was poured into ice-water and the whole extracted with dichloromethane (100 mL×3). The combined organic layer was washed with brine (100 mL), dried over MgSO4 and concentrated in vacuo to give the subtitle compound as light yellow solids (4.52 g, 98% yield). The compound was used for next reaction without further purification.

reactant | 3-(2,5-dichloro-3-thienyl)propanoic acid | 24.2 mmol, 5.0 g | ClC=1SC(=CC1CCC(=O)O)Cl | C7H6Cl2O2S
reactant | oxalyl chloride | 27.5 mmol, 3.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 30 mmol, 4.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminum chloride | 33.7 mmol, 4.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | 1,3-Dichloro-5,6-dihydro-4H-cyclopenta(c)thiophen-4-one | 4.52 g, 98% yield | ClC=1SC(=C2C1CCC2=O)Cl | C7H4Cl2OS
